US04029668
5,6,7,8-Tetrahydroquinoline-8-thiocarboxamide
A solution of 5,6,7,8-tetrahydroquinoline-8 -carboxamide (1.2 g.) in pyridine (15 ml.) was treated with P2S5 (0.8 g.) and the mixture heated at reflux for 30 mins. The solvent was removed in vacuo and the residual oil treated with 2N NaOH (5 ml.) and saturated with solid K2CO3 and extracted into chloroform (3× 50 ml.). The combined extracts were dried and the solvent removed in vacuo. The residual oil was dissolved in pyridine (4 ml.) and triethylamine (1 ml.) and the solution saturated with H2S (6 hours) and allowed to stand overnight. Removal of the solvent gave a solid (850 mgs.) which was recrystallised from methanol giving the title compound as the quarter hydrate, colourless needles m.p. 160° C. Found: C, 59.8; H, 6.2; N, 14.0%. C10H12N2S.1/4 H2O requires: C, 59.6; H, 6.4; N, 13.9%.

reactant | 5,6,7,8-tetrahydroquinoline-8 -carboxamide | 1.2 g | N1=CC=CC=2CCCC(C12)C(=O)N | C10H12N2O
reactant | P2S5 | 0.8 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5,6,7,8-Tetrahydroquinoline-8-thiocarboxamide | N1=CC=CC=2CCCC(C12)C(N)=S | C10H12N2S
